US07291643B2
N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]-2,2,2-trifluoroethanesulfonamide
The title compound was prepared according to general procedure for sulfonylation of 5-(4-aminophenyl)-1-methyl-1H-pyrrole-2-carbonitrile using 2,2,2-trifluoro-ethanesulfonyl chloride (55 μL, 0.55 mmol) to provide N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]-2,2,2-trifluoroethanesulfonamide (0.014 g).

reactant | 5-(4-aminophenyl)-1-methyl-1H-pyrrole-2-carbonitrile | NC1=CC=C(C=C1)C1=CC=C(N1C)C#N | C12H11N3
reactant | 2,2,2-trifluoro-ethanesulfonyl chloride | 0.55 mmol, 55 μL | FC(CS(=O)(=O)Cl)(F)F | C2H2ClF3O2S
product | N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]-2,2,2-trifluoroethanesulfonamide | 0.014 g | C(#N)C1=CC=C(N1C)C1=CC=C(C=C1)NS(=O)(=O)CC(F)(F)F | C14H12F3N3O2S
